US08193378B2
To a solution of methyl 4-phenylthiophene-2-carboxylate (1.8 g) in DCM (18 mL) was added portionwise pyridinium tribromide (13.2 g) at 0° C. The reaction liquid was warmed to 25° C. and then stirred for 45 hours. The reaction mixture was cooled to 0° C., and a saturated aqueous Na2S2O3 solution (100 mL) was slowly added dropwise. The reaction mixture was extracted with DCM (50 mL) three times. The organic layer was washed with brine, dried over MgSO4, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (automatic purification device, hexane:EtOAc=100:0 to 90:10) to obtain methyl 5-bromo-4-phenylthiophene-2-carboxylate (2.06 g) as a colorless liquid.

reactant | methyl 4-phenylthiophene-2-carboxylate | 1.8 g | C1(=CC=CC=C1)C=1C=C(SC1)C(=O)OC | C12H10O2S
reactant | pyridinium tribromide | 13.2 g | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | Na2S2O3 | 100 mL | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | DCM | 18 mL | C(Cl)Cl | CH2Cl2
product | methyl 5-bromo-4-phenylthiophene-2-carboxylate | 2.06 g | BrC1=C(C=C(S1)C(=O)OC)C1=CC=CC=C1 | C12H9BrO2S
